US06403791B1
7-Bromo-2-(piperidin-1-yl)-benzooxazol-4-ol
Starting from 7-bromo-4-methoxy-2-(piperidin-1-yl)-benzooxazole (9.0 g). Trituration in diethyl ether afforded the title compound as a pale brown solid (7.46 g).

reactant | 7-bromo-4-methoxy-2-(piperidin-1-yl)-benzooxazole | 9.0 g | BrC1=CC=C(C=2N=C(OC21)N2CCCCC2)OC | C13H15BrN2O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-Bromo-2-(piperidin-1-yl)-benzooxazol-4-ol | 7.46 g | BrC=1C=CC(=C2N=C(OC21)N2CCCCC2)O | C12H13BrN2O2
